US08975398B2
tert-butyl 4-(4-(1-(pyridin-3-yl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate
tert-Butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate (4.97 g, 13.24 mmol), cesium carbonate (10.78 g, 33.1 mmol), 3-bromopyridine (1.307 ml, 13.24 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.764 g, 1.32 mmol) and bis(dibenzylideneacetone)palladium(0) (0.606 g, 0.662 mmol) were suspended in dioxane (50 ml), bubbled with nitrogen for 30 minutes and heated at 100° C. overnight. The mixture was filtered through a celite pad with dichloromethane washes and the filtrate was concentrated. Normal phase chromatography provided the title compound.

reactant | tert-Butyl 4-(4-(azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | 13.24 mmol, 4.97 g | N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H29N3O4
reactant | cesium carbonate | 33.1 mmol, 10.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-bromopyridine | 13.24 mmol, 1.307 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 1.32 mmol, 0.764 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.662 mmol, 0.606 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | tert-butyl 4-(4-(1-(pyridin-3-yl)azetidine-3-carboxamido)phenoxy)piperidine-1-carboxylate | N1=CC(=CC=C1)N1CC(C1)C(=O)NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C25H32N4O4
